US04302451
Sulfenylation of the Diphenylamine
The toluene solution of the sulfenyl chloride was added to the THF solution of the diphenylamine sodium salt. The reaction mixture was stirred cold for 1 hour, cooling was removed and the reaction was stirred an additional hour. The reaction mixture was filtered through celite and solvent was removed in vacuum leaving a brown oil. Chromatography on silica gel yielded the desired product as a yellow oil which solidified on trituration with hexanes (m 109°-122° C.).

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sulfenyl chloride | S(Cl)Cl | Cl2S
reactant | diphenylamine sodium salt | [Na].C1(=CC=CC=C1)NC1=CC=CC=C1
solvent | THF | C1CCOC1 | C4H8O
product | Diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
